US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (120 mg, 0.3 mmol) and 2-chloropyridine-2-boronic acid (71 mg, 0.45 mmol) gave 4-(2-Chloro-pyridin-4-yl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (58 mg, 46.4%) as a white solid. MS 417 m/z (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.3 mmol, 120 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 2-chloropyridine-2-boronic acid | 0.45 mmol, 71 mg | ClC1(NC=CC=C1)B(O)O | C5H7BClNO2
product | 4-(2-Chloro-pyridin-4-yl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 58 mg, 46.4% | ClC1=NC=CC(=C1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C18H13ClN4O4S
